US06034239
7,8-Dihydroindeno[5,4-b][1,4]oxazine-2,9(1H,3H)-dione
To a solution of ethyl [(4-amino-3-oxoindan-5-yl) oxy]acetate (8.7 g, 34.9 mmol.) in toluene (200 mL) was added potassium t-butoxide (400 mg, 3.6 mmol.). The mixture was refluxed for 12 hours under argon atmosphere. The reaction mixture was cooled, which was poured into water, followed by neutralization with dilute hydrochloric acid. The organic matter was extracted with ethyl acetate, which was washed with a saturated aqueous saline solution and water, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by means of silica gel column chromatography (hexane:ethyl acetate=1:1) to afford the title compound (yield 4.8 g, 66%).

reactant | ethyl [(4-amino-3-oxoindan-5-yl) oxy]acetate | 34.9 mmol, 8.7 g | NC1=C2C(CCC2=CC=C1OCC(=O)OCC)=O | C13H15NO4
reactant | potassium t-butoxide | 3.6 mmol, 400 mg | CC(C)([O-])C.[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 7,8-Dihydroindeno[5,4-b][1,4]oxazine-2,9(1H,3H)-dione | yield 4.8 g, 66% | N1C2=C(OCC1=O)C=CC=1CCC(C12)=O | C11H9NO3
